US06333338B1
63) tert-Butyl 4-[5-[1-(tert-Butoxycarbonyl)-4-piperidyl]-3-({[2-({3-ethoxy-2-[(2-naphthylsulphonyl)amino]-3-oxopropyl}amino)-2-oxo-1-phenylethyl]amino}carbonyl)pentyl]tetrahydro-1(2H)-pyridinecarboxylate (Compound 91)
Ethyl 3-[(2-amino-2-phenylethanoyl)amino]-2-[(2-naphthylsulphonyl)amino]propanoate hydrochloride (1.7 g, 3 mmol) and diisopropylethylamine (0.8 g, 6.2 mmol) are added, at room temperature, to a solution of 4-[1-(tert-butoxycarbonyl)-4-piperidyl]-2-{2-[1-(tert-butoxycarbonyl)-4-piperidyl]ethyl}butanoyl fluoride (ref. synthesis B-1) (1.55 g, 3 mmol) in 50 ml of dichloromethane. After stirring for 3 hours, water is added. The organic phase is washed with water, dried over sodium sulphate and evaporated to give the crude product, which is purified by flash chromatography (20/1 dichloromethane/methanol) to give 1.2 g of a white solid.

reactant | Ethyl 3-[(2-amino-2-phenylethanoyl)amino]-2-[(2-naphthylsulphonyl)amino]propanoate hydrochloride | 3 mmol, 1.7 g | Cl.NC(C(=O)NCC(C(=O)OCC)NS(=O)(=O)C1=CC2=CC=CC=C2C=C1)C1=CC=CC=C1
reactant | diisopropylethylamine | 6.2 mmol, 0.8 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-[1-(tert-butoxycarbonyl)-4-piperidyl]-2-{2-[1-(tert-butoxycarbonyl)-4-piperidyl]ethyl}butanoyl fluoride | 3 mmol, 1.55 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CCC(C(=O)F)CCC1CCN(CC1)C(=O)OC(C)(C)C | C26H45FN2O5
reactant | water | O | H2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | tert-Butyl 4-[5-[1-(tert-Butoxycarbonyl)-4-piperidyl]-3-({[2-({3-ethoxy-2-[(2-naphthylsulphonyl)amino]-3-oxopropyl}amino)-2-oxo-1-phenylethyl]amino}carbonyl)pentyl]tetrahydro-1(2H)-pyridinecarboxylate | 1.2 g, Yield=44% | C(C)(C)(C)OC(=O)N1CCC(CC1)CCC(CCC1CCN(CC1)C(=O)OC(C)(C)C)C(=O)NC(C(=O)NCC(C(=O)OCC)NS(=O)(=O)C1=CC2=CC=CC=C2C=C1)C1=CC=CC=C1 | C49H69N5O10S
